US04703130
1-[[8-[2-(2-Methoxyethoxy)ethoxy]octyl]sulfonyl]-4-methylbenzene
A mixture of 40 g of 8-[2-(2-methoxyethoxy)-ethoxy]-1-octanol, 35.31 g of tosyl chloride and 200 ml of pyridine was stored in a chill room overnight, then poured into water and extracted with ether. The ether extract was washed successively with water, dilute hydrochloric acid and saturated aqueous sodium bisulfite, dried and the solvent removed, giving the desired compound as an oil which was used without further purification in Example 8.

reactant | 8-[2-(2-methoxyethoxy)-ethoxy]-1-octanol | 40 g | COCCOCCOCCCCCCCCO | C13H28O4
reactant | tosyl chloride | 35.31 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 1-[[8-[2-(2-Methoxyethoxy)ethoxy]octyl]sulfonyl]-4-methylbenzene | COCCOCCOCCCCCCCCS(=O)(=O)C1=CC=C(C=C1)C | C20H34O5S
